### PR TITLE
Specify and verify: `spqr::v1::chunked::states::serialize::encode_varint`

### LINKED ISSUE #311: Specify and verify : `spqr::v1::chunked::states::serialize::encode_varint` in `v1/chunked/states/serialize.rs`
Parent: #306

### PR DESCRIPTION
**Pull request by Zhang-Liao**
Closes #311.

Specifies and verifies `spqr::v1::chunked::states::serialize::encode_varint`
(`src/v1/chunked/states/serialize.rs`, lines 139–149), the LEB128-style varint encoder.

## Pure model

`varintBytes : ℕ → List ℕ`, `if a < 128 then [a] else (a % 128 + 128) :: varintBytes (a / 128)` —
7 payload bits per byte, least-significant septet first, continuation bit `0x80` on every byte but
the last. Supporting lemmas: unfolding at both branches, and `varintBytes_length_le_ten` for `u64`.

## Spec

Three `@[step]` theorems (body / loop / top). Under the no-overflow precondition
`into.len() + 10 ≤ usize::MAX`, `encode_varint a into` succeeds and returns `into ++ tail` with

- `tail.map UScalar.val = varintBytes a.val`, and
- `1 ≤ tail.length ≤ 10`.

The loop invariant only needs `start ≤ 9`; a continue from index 9 is refuted arithmetically
(`a = a / 128 ^ 9` together with `128 ≤ a` forces `a ≥ 2 ^ 70 > u64::MAX`).

Standard axioms only. `lake build Spqr.Specs.V1.Chunked.States.Serialize.EncodeVarint` succeeds
against current `main`.

### CODE REVIEW

File: Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean [hunk 1]
```diff
@@ -0,0 +1,256 @@
...
+      simp only [List.length_cons]
+      omega
+
+/-- A `u64` value encodes in at most 10 bytes. -/
+theorem varintBytes_length_le_ten {a : ℕ} (h : a < 2 ^ 64) : (varintBytes a).length ≤ 10 :=
+  varintBytes_length_le 10 a (by omega)
+    (lt_of_lt_of_le h (by norm_num))
+
+/-- Mirror of the Rust unit test `encoding_varint`: `0x012C` encodes to `[0xAC, 0x02]`. -/
+example : varintBytes 0x012C = [0xAC, 0x02] := by
```
Comment (truonghoangle) [inline Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean]: why do we need example in file?

File: Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean [hunk 2]
```diff
@@ -0,0 +1,256 @@
...
+
+/-- **Spec theorem for `spqr::v1::chunked::states::serialize::encode_varint`**:
+
+Under the no-overflow precondition `into.len() + 10 ≤ usize::MAX`, `encode_varint a into`
+succeeds and returns `into ++ tail` where `tail` (as natural-number byte values) is exactly
+`varintBytes a`, the LEB128 encoding of `a`: between 1 and 10 bytes, 7 payload bits per byte
+least-significant first, every byte except the last carrying the continuation bit `0x80`. -/
+@[step]
+theorem encode_varint_spec
+    (a : Std.U64) (into : alloc.vec.Vec Std.U8)
```
Comment (truonghoangle) [inline Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean]: We need to remove unnecessary prefixes like `Std.`

File: Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean (hunk 1 above)
Comment (Zhang-Liao) [reply Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean]: Thanks, it is not needed. I have removed it.

File: Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean (hunk 2 above)
Comment (Zhang-Liao) [reply Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean]: Thanks! I have removed all `Std.` in `Spqr/Specs/V1/Chunked/States/Serialize/EncodeVarint.lean`.

**Review by truonghoangle — APPROVED** [review]
